US06331640B1
A solution of acidic methanol was prepared by adding acetyl chloride (25 mL, 351.6 mmol) to cooled (˜0° C.) methanol (200 mL) and stirring for 10 min. This solution was added to N-[2,6-dichloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[[(1,1-dimethylethoxy) carbonyl]amino]-L-alanine, methyl ester (8.64 g, 16.0 mmol) and the resulting solution was stirred at room temperature for 16 h. The solvent was evaporated to give 3-amino-N-[2,6-dichloro-4-[[[(3-hydroxyphenyi)methyl]amino]carbonyl]benzoyl]-L-alanine, methyl ester hydrochloride (7.40 g, 97%) as a cream-colored foam.

reactant | acetyl chloride | 351.6 mmol, 25 mL | C(C)(=O)Cl | C2H3ClO
reactant | N-[2,6-dichloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[[(1,1-dimethylethoxy) carbonyl]amino]-L-alanine, methyl ester | 16.0 mmol, 8.64 g | ClC1=C(C(=O)N[C@@H](CNC(=O)OC(C)(C)C)C(=O)OC)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O)Cl | C24H27Cl2N3O7
solvent | methanol | 200 mL | CO | CH4O
product | 3-amino-N-[2,6-dichloro-4-[[[(3-hydroxyphenyi)methyl]amino]carbonyl]benzoyl]-L-alanine, methyl ester hydrochloride | 7.40 g, 97% | Cl.NC[C@H](NC(C1=C(C=C(C=C1Cl)C(=O)NCC1=CC(=CC=C1)O)Cl)=O)C(=O)OC | InChI=1S/C19H19Cl2N3O5.ClH/c1-29-19(28)15(8-22)24-18(27)16-13(20)6-11(7-14(16)21)17(26)23-9-10-3-2-4-12(25)5-10;/h2-7,15,25H,8-9,22H2,1H3,(H,23,26)(H,24,27);1H/t15-;/m0./s1
